US06528510B1
(6-tert-Butyl-5-mercapto-1H-indole-2-carboxylic acid ethyl ester
The title compound was prepared according to the general Method 14b using (6-tert-butyl-5-thiocyanato-1H-indole-2-carboxylic acid ethyl ester (prepared in Example ZZ; 0.25 g, 0.83 mmol), sodium hydrogen sulfide (0.13 g, 2.48 mmol), sodium borohydride (0.188 g, 4.98 mmol), MeOH (5 mL), and AcOH (1 mL). MS(APCI): 278 (M+H).

reactant | 6-tert-butyl-5-thiocyanato-1H-indole-2-carboxylic acid ethyl ester | 0.83 mmol, 0.25 g | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)SC#N)C(C)(C)C | C16H18N2O2S
reactant | sodium hydrogen sulfide | 2.48 mmol, 0.13 g | S.[Na]
reactant | sodium borohydride | 4.98 mmol, 0.188 g | [BH4-].[Na+]
reactant | MeOH | 5 mL | CO | CH4O
solvent | AcOH | 1 mL | CC(=O)O | C2H4O2
product | 6-tert-Butyl-5-mercapto-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC(=C(C=C2C1)S)C(C)(C)C | C15H19NO2S
